US05244908
Synthesis of 5-[4-(methanesulfonamido)butylthio] imidazo[1,2-a]pyridine (Compound 166)
To a solution of 5-[4-(amino)butylthio]imidazo[1,2-a]pyridine (440 mg, 1.99 mmoles) and triethylamine (0.42 ml, 3.01 mmoles) in methylene chloride (20 ml) was added methanesulfonyl chloride (0.19 ml, 2.45 mmoles) under ice-cooling with stirring and the mixture was stirred under ice-cooling for 1 hour. The reaction mixture was washed in turn with an aqueous saturated sodium bicarbonate solution and saturated saline and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by column chromatography (eluent: ethyl acetate) to obtain 302 mg of the desired product (50.8%, light red brown solid).

reactant | 5-[4-(amino)butylthio]imidazo[1,2-a]pyridine | 1.99 mmoles, 440 mg | NCCCCSC1=CC=CC=2N1C=CN2 | C11H15N3S
reactant | triethylamine | 3.01 mmoles, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.45 mmoles, 0.19 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-[4-(methanesulfonamido)butylthio] imidazo[1,2-a]pyridine | 302 mg, 50.8% | CS(=O)(=O)NCCCCSC1=CC=CC=2N1C=CN2 | C12H17N3O2S2
